US08106221B2
Step 8. tert-butyl 3-(2-aminoethoxy)-3-(3-chlorophenyl)propyl(methyl)carbamate
A solution of tert-butyl 3-(3-chlorophenyl)-3-(cyanomethoxy)propyl(methyl)carbamate (3 g, 8.9 mmol) in THF (50 mL) was heated to reflux and BH3.Me2S was added drop wise. The reaction mixture was heated to reflux overnight. MeOH was added to the mixture at −15° C. The solution was removed in vacuo to give the crude product, which was used for the next step without purification.

reactant | tert-butyl 3-(3-chlorophenyl)-3-(cyanomethoxy)propyl(methyl)carbamate | 8.9 mmol, 3 g | ClC=1C=C(C=CC1)C(CCN(C(OC(C)(C)C)=O)C)OCC#N | C17H23ClN2O3
reactant | Me2S | S(C)C | C2H6S
reactant | MeOH | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(2-aminoethoxy)-3-(3-chlorophenyl)propyl(methyl)carbamate | NCCOC(CCN(C(OC(C)(C)C)=O)C)C1=CC(=CC=C1)Cl | C17H27ClN2O3
